US07893267B2
10.0 mL of conc. HNO3 at 0° C. was treated with 20.0 mL of conc. H2SO4, then 6.4 g (40 mmol) of 3,5-difluorobenzoic acid. The reaction mixture was warmed to room temperature and stirred overnight, then poured into a beaker containing ice. The resulting solid was collected, washed with cold water and dried to produce 8.0 g (80%) of 3,5-difluoro-2-nitro-benzoic acid. LCMS: 204 (M+1)+.

reactant | HNO3 | 10.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 20.0 mL | OS(=O)(=O)O | H2O4S
reactant | 3,5-difluorobenzoic acid | 40 mmol, 6.4 g | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
product | 3,5-difluoro-2-nitro-benzoic acid | 8.0 g, 80% | FC=1C(=C(C(=O)O)C=C(C1)F)[N+](=O)[O-] | C7H3F2NO4
